US08314162B2
N-(3-Anisyl)-N-phenyl-N-methylamine (APMA)
5.15 g of N-(3-Anisyl)-N-phenyl-amine were dissolved in 25.0 ml of anhydrous diethylether. 11.0 g of a 2.50 M solution of n-butyl lithium in n-hexane was added with stirring. After completion of the addition the reaction mixture was heated to reflux for 30 min 3.90 g of iodomethane are added and the reaction mixture was heated to reflux for additional 4 hours. After extraction with 2.00 N sodium hydroxide solution (three times) the organic layer was dried with anhydrous sodium sulfate. After filtration the solvent was removed in vacuo and the crude product purified by fractionated distillation in vacuo. At a temperature of 70-90° C./0.01 mbar 2.40 g (45.0%) of APMA was collected as yellow liquid.

reactant | N-(3-Anisyl)-N-phenyl-amine | 5.15 g | C(C1=CC(=CC=C1)OC)NC1=CC=CC=C1 | C14H15NO
reactant | n-butyl lithium | C(CCC)[Li]
reactant | iodomethane | 3.90 g | IC | CH3I
solvent | diethylether | 25.0 ml | C(C)OCC | C4H10O
solvent | n-hexane | CCCCCC | C6H14
product | N-(3-Anisyl)-N-phenyl-N-methylamine | C(C1=CC(=CC=C1)OC)N(C)C1=CC=CC=C1 | C15H17NO
